US05668131
2) 3-Chloro-4-[N-(2-chloroethyl)-N-methylamino]-2-chloromethylpyridine hydrochloride
A solution of thionyl chloride (4 ml) in dichloromethane (20 ml) is added dropwise to a solution of 3-chloro-4-[N-(2-hydroxyethyl)-N-methylamino]-2-hydroxymethylpyridine (2.3 g) in dichloromethane (30 ml) at 0° C. The temperature is then allowed to rise to 20° C. (20 min), and then the temperature is kept at 40° C. for 30 min. The solvent is stripped off in vacuo and then the remaining residue is chromatographed on silica gel (petroleum ether/ethyl acetate 7/3 mixture which contains 1 ml of conc. NH3 ×aq/l). Yield: 2.6 g.

reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-4-[N-(2-hydroxyethyl)-N-methylamino]-2-hydroxymethylpyridine | 2.3 g | ClC=1C(=NC=CC1N(C)CCO)CO | C9H13ClN2O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Chloro-4-[N-(2-chloroethyl)-N-methylamino]-2-chloromethylpyridine hydrochloride | Cl.ClC=1C(=NC=CC1N(C)CCCl)CCl | InChI=1S/C9H11Cl3N2.ClH/c1-14(5-3-10)8-2-4-13-7(6-11)9(8)12;/h2,4H,3,5-6H2,1H3;1H
